US09353246B2
Aluminum tris(2-(5,5-dimethyl-2-oxido-1,3,2-dioxaphosphinan-2yl)acetate)
Prepare a reaction vessel from a 1000 mL single neck round bottom flask by fitting with a condenser with a nitrogen inlet. Charge the vessel with 31.55 g 2-(5,5-dimethyl-2-oxido-1,3,2-dioxaphosphinan-2-yl)acetic acid followed by 100 mL water and 4.38 g aluminum hydroxide monohydrate. Heat the resulting solution to 90° C. and hold at that temperature for 24 hours. Isolate the solid by vacuum filtration using a fritted funnel and wash with 400 mL acetone. Transfer the solid product to a glass bottle and place in a vacuum oven to dry overnight. The yield of the solid product of Aluminum tris(2-(5,5-dimethyl-2-oxido-1,3,2-dioxaphosphinan-2yl)acetate) is 31.25 g.

reactant | 2-(5,5-dimethyl-2-oxido-1,3,2-dioxaphosphinan-2-yl)acetic acid | 31.55 g | CC1(COP(OC1)(=O)CC(=O)O)C | C7H13O5P
reactant | aluminum hydroxide monohydrate | 4.38 g | O.[OH-].[Al+3].[OH-].[OH-]
solvent | water | 100 mL | O | H2O
product | Aluminum tris(2-(5,5-dimethyl-2-oxido-1,3,2-dioxaphosphinan-2yl)acetate) | CC1(COP(OC1)(=O)CC(=O)[O-])C.CC1(COP(OC1)(=O)CC(=O)[O-])C.CC1(COP(OC1)(=O)CC(=O)[O-])C.[Al+3] | InChI=1S/3C7H13O5P.Al/c3*1-7(2)4-11-13(10,12-5-7)3-6(8)9;/h3*3-5H2,1-2H3,(H,8,9);/q;;;+3/p-3
